US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2-methoxy-phenyl)-amine was prepared from (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(2-methoxy-phenyl)-amine (100.0 mg, 0.3133 mmol) and (4-methylsulfonylphenyl)boronic acid (75.0 mg, 0.375 mmol) in a manner analogous to Step 2c and was isolated as a pale yellow solid (0.097 g, 78%). MP=211-213° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.53-8.49 (m, 1H), 8.38 (dd, J=8.0, 1.3 Hz, 1H), 8.24 (d, J=8.4 Hz, 2H), 8.10 (d, J=8.5 Hz, 2H), 7.66-7.62 (m, 1H), 7.61 (s, 1H), 7.08-6.89 (m, 4H), 3.92 (s, 3H), 3.11 (s, 3H). MS=395 (MH)+.

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(2-methoxy-phenyl)-amine | 0.3133 mmol, 100.0 mg | BrC=1C=2N(C=CC1)N=C(N2)NC2=C(C=CC=C2)OC | C13H11BrN4O
reactant | (4-methylsulfonylphenyl)boronic acid | 0.375 mmol, 75.0 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2-methoxy-phenyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=C(C=CC=C2)OC | C20H18N4O3S
